US09376441B2
In a round-bottomed, single-necked, 100-mL flask were placed 4-(4-bromophenyl)piperidine (500.0 mg, 2.08 mmol), N,N-diisopropylethylamine (0.36 mL, 2.08 mmol), 3-oxetanone (0.27 mL, 4.16 mmol), and sodium triacetoxyborohydride (1544.5 mg, 7.3 mmol) in THF (15 mL). The mixture was stirred at room temperature for 16 h. Then, it was quenched with water and the organic layers extracted with EtOAc (3×5 mL). The combined organic layers were washed with water (2×5 mL) and brine (1×5 mL), dried (Na2SO4), concentrated, and purified by flash chromatography (100% Hexane to 100% EtOAc) to give 350.0 mg (57%) of 4-(4-bromophenyl)-1-(oxetan-3-yl)piperidine.

reactant | 4-(4-bromophenyl)piperidine | 2.08 mmol, 500.0 mg | BrC1=CC=C(C=C1)C1CCNCC1 | C11H14BrN
reactant | N,N-diisopropylethylamine | 2.08 mmol, 0.36 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-oxetanone | 4.16 mmol, 0.27 mL | O1CC(C1)=O | C3H4O2
reactant | sodium triacetoxyborohydride | 7.3 mmol, 1544.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | 4-(4-bromophenyl)-1-(oxetan-3-yl)piperidine | 350.0 mg, 57% | BrC1=CC=C(C=C1)C1CCN(CC1)C1COC1 | C14H18BrNO
